US06262045B1
2.6. 8-Chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid
A solution of 10 g (28 mmol) of 8-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile in a mixture of 200 ml of concentrated hydrochloric acid and of 200 ml of acetic acid is heated at 100° C. for 4 h. The solution is concentrated under reduced pressure, the residue is taken up in 250 ml of water and the precipitate is collected by filtration. It is washed with water and dried under reduced pressure. 10.2 g (27 mmol) of solid are obtained.

reactant | 8-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetonitrile | 28 mmol, 10 g | ClC1=CC=2C3=C(N(C2C=C1)C)C(N(N=C3CC#N)C3=CC=CC=C3)=O | C19H13ClN4O
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 8-Chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 27 mmol, 10.2 g | ClC1=CC=2C3=C(N(C2C=C1)C)C(N(N=C3CC(=O)O)C3=CC=CC=C3)=O | C19H14ClN3O3
